US07786113B2
(2-Phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-carbamic acid 1-methyl-allyl ester
80 mg 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine (0.38 mmol,) in 3 ml dry pyridine were treated with a solution of 3-buten-2-yl chloroformate in dichloromethane. The mixture was stirred at room temperature over night, diluted with 1 ml water and stirred for another hr. The solvents were evaporated and the residue was dispersed in water with sonication, filtered, and the filter residue washed thoroughly with water and ether.

reactant | 2-phenyl-3H-imidazo[4,5-b]pyridin-6-ylamine | 0.38 mmol, 80 mg | C1(=CC=CC=C1)C1=NC=2C(=NC=C(C2)N)N1 | C12H10N4
reactant | 3-buten-2-yl chloroformate | ClC(=O)OC(C)C=C | C5H7ClO2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | (2-Phenyl-3H-imidazo[4,5-b]pyridin-6-yl)-carbamic acid 1-methyl-allyl ester | CC(C=C)OC(NC=1C=C2C(=NC1)NC(=N2)C2=CC=CC=C2)=O | C17H16N4O2
